US08227500B2
4-[3-cyano-4-(3,4-methylenedioxyphenyl)pyrazole-1-yl]benzoic acid ethyl ester
A suspension of 4-(4-bromo-3-cyanopyrazole-1-yl)benzoic acid ethyl ester (0.17 g), (3,4-methylenedioxyphenyl)boronic acid (0.11 g), tetrakis(triphenylphosphine)palladium (0.12 g) and sodium carbonate (0.17 g) in a mixed solvent of water (0.5 mL) and N,N-dimethylformamide (5 mL) was stirred at 70° C. for 12 hours. To this reaction mixture was added dilute hydrochloric acid, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/n-hexane=1/5) to give the title compound (0.05 g).

reactant | 4-(4-bromo-3-cyanopyrazole-1-yl)benzoic acid ethyl ester | 0.17 g | C(C)OC(C1=CC=C(C=C1)N1N=C(C(=C1)Br)C#N)=O | C13H10BrN3O2
reactant | (3,4-methylenedioxyphenyl)boronic acid | 0.11 g | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | sodium carbonate | 0.17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | 4-[3-cyano-4-(3,4-methylenedioxyphenyl)pyrazole-1-yl]benzoic acid ethyl ester | 0.05 g | C(C)OC(C1=CC=C(C=C1)N1N=C(C(=C1)C1=CC2=C(C=C1)OCO2)C#N)=O | C20H15N3O4
